US04933355
Ethyl 2-ethylaminothiazole-4-carboxylate
The reaction described in Preparation 42 was repeated but using 10 g of ethylthiourea, 20 g of ethyl bromopyruvate and 100 ml of ethanol, giving the title compound as a pale yellow powder.

reactant | ethylthiourea | 10 g | C(C)NC(=S)N | C3H8N2S
reactant | ethyl bromopyruvate | 20 g | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Ethyl 2-ethylaminothiazole-4-carboxylate | C(C)NC=1SC=C(N1)C(=O)OCC | C8H12N2O2S
